US06825212B2
Preparation of 2-[3-(Phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-1-yl]ethylamine dihydrochloride
A solution of 2-{2-[3-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-1-yl]ethyl}-1H-isoindole-1,3(2H)-dione (4.54 g, 10.5 mmol) in dioxane is treated with anhydrous hydrazine (8.3 mL, 265 mmol), heated at 50° C. for 3 h, concentrated in vacuo, diluted with water and extracted with CH2Cl2. The combined extracts are dried over MgSO4 and concentrated in vacuo to give a clear gum residue. Chromatography (1:9 methanol:CH2Cl2) of the residue affords the free amine of the title compound as a clear gum. The free amine is dissolved in ethanol, acidified with 2N aqueous HCl and concentration in vacuo. Crystallization of the resultant residue from ethanol/ether affords the title compound as a white solid, 3.20 g, mp 195-197° C., characterized by mass spectral and HNMR analyses.

reactant | 2-{2-[3-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-1-yl]ethyl}-1H-isoindole-1,3(2H)-dione | 10.5 mmol, 4.54 g | C1(=CC=CC=C1)S(=O)(=O)C1=CN(C2=NC=CC=C21)CCN2C(C1=CC=CC=C1C2=O)=O | C23H17N3O4S
reactant | hydrazine | 265 mmol, 8.3 mL | NN | H4N2
reactant | methanol | CO | CH4O
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-[3-(Phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-1-yl]ethylamine dihydrochloride | Cl.Cl.C1(=CC=CC=C1)S(=O)(=O)C1=CN(C2=NC=CC=C21)CCN | InChI=1S/C15H15N3O2S.2ClH/c16-8-10-18-11-14(13-7-4-9-17-15(13)18)21(19,20)12-5-2-1-3-6-12;;/h1-7,9,11H,8,10,16H2;2*1H
